US06919331B2
To a solution of [1-(4-hydroxy-butyl)-2-(3-vinyl-indazol-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (115 mg, 0.24 mmol) in methanol (35 mL) was added 10% Pd/C (12 mg) and this suspension was rocked in a Parr shaker under a hydrogen atmosphere (45 psi) for 2 hrs. The catalyst was removed by filtration and the filtrate concentrated in vacuo to yield [2-(3-ethyl-indazol-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (106 mg, 92%) as a white foam:

reactant | [1-(4-hydroxy-butyl)-2-(3-vinyl-indazol-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.24 mmol, 115 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2N=C(C3=CC=CC=C23)C=C)CCCCO)C=C1)=O | C27H33N5O3
solvent | methanol | 35 mL | CO | CH4O
catalyst | Pd/C | 12 mg | [Pd] | Pd
product | [2-(3-ethyl-indazol-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 106 mg, 92% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2N=C(C3=CC=CC=C23)CC)CCCCO)C=C1)=O | C27H35N5O3
